US09370522B2
A solution of benzo[d][1,3]dioxole (6.1 g, 50.00 mmol, 1.00 equiv) and N-bromo-succinamide (NBS) (9.3 g, 52.5 mmol, 1.05 equiv) in CHCl3 (25 mL) in a 100-mL round-bottom flask and allowed to react, with stirring, for 3 hr while the temperature was maintained at reflux. The resulting mixture was concentrated under vacuum and purified via silica gel column (ethyl acetate:petroleum ether (1:20)) giving 9.5 g (90%) of 5-bromobenzo[d][1,3]dioxole as yellow oil.

reactant | benzo[d][1,3]dioxole | 50.00 mmol, 6.1 g, 1.00 equiv | O1COC2=C1C=CC=C2 | C7H6O2
reactant | N-bromo-succinamide | 52.5 mmol, 9.3 g, 1.05 equiv | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromobenzo[d][1,3]dioxole | 9.5 g, 90% | BrC1=CC2=C(OCO2)C=C1 | C7H5BrO2
